US06127412
(S)-(2-(3-Chlorophenyl)-2-hydroxyethyl)oxocarboxamide
(S)-(2-(3-Chlorophenyl)-2-carbamoyloxyethyl)oxocarboxamide (1.36 g, yield 25%, m.p. 117-119° C., [α]D =12.88 (c=2.30, MeOH) was prepared using the same synthetic method described in Example 20, except (S)-1-m-chlorophenyl-1,2-ethanediol was used instead of (DL)-1-m-chlorophenyl-1,2-ethanediol.

reactant | (S)-(2-(3-Chlorophenyl)-2-carbamoyloxyethyl)oxocarboxamide | ClC=1C=C(C=CC1)[C@H](CC(=O)N=O)OC(N)=O | C10H9ClN2O4
reactant | (S)-1-m-chlorophenyl-1,2-ethanediol | ClC=1C=C(C=CC1)[C@@H](CO)O | C8H9ClO2
solvent | MeOH | CO | CH4O
product | (S)-(2-(3-Chlorophenyl)-2-hydroxyethyl)oxocarboxamide | yield 25% | ClC=1C=C(C=CC1)[C@H](CC(=O)N=O)O | C9H8ClNO3
